US04001207
Preparation of 1(-tert.-butylazo)cyclohexene
To a solution of 11 g. (.125 m.) tert.-butylhydrazine in 80 ml. of methylene chloride containing 2 g. anhydrous sodium sulfate, was added 6.8 g. (0.052 m.) alpha-chlorocyclohexanone. The addition was carried out dropwise and the reaction temperature was maintained at 20° C. ±5° by an ice bath. The solution immediately turned yellow, but the reaction was stirred for an additional 1 hour after the addition was complete before filtering it. The filtered methylene chloride solution was washed with 100 ml. water, dried over anhydrous sodium sulfate, filtered and the methylene chloride evaporated off. A viscous, gelatinous liquid remained. The material was cooled in the freezer and then filtered. A white solid, 0.1 g., remained on the filter. The filtrate weighed 8.4 g. (97% yield) and its infra-red spectrum was consistent with the proposed structure. It showed the absence of N-H and carbonyl bands and the presence of a carbon-carbon double bond (1650 cm-1) and a conjugated azo bond (1510 cm-1). The product evolves nitrogen at 60 ° C. 1(-tert.-butylazo)eyeclohexane gelled the unsaturated polyester-styrene resin of Example III at room temperature.

reactant | tert.-butylhydrazine | C(C)(C)(C)NN | C4H12N2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | alpha-chlorocyclohexanone | C1CCC(=O)C(C1)Cl | C6H9ClO
solvent | methylene chloride | 2 g | C(Cl)Cl | CH2Cl2
product | 1(-tert.-butylazo)cyclohexene | 97% yield | C(C)(C)(C)N=NC1=CCCCC1 | C10H18N2
